US04203986
2-[4-(3-Trifluoromethyl-4-fluorophenyl)-piperazino]-ethanol
10 g (0.04 mole) 4-(3-Trifluoromethyl-4-fluorophenyl)piperazine and 7 g (0.056 mole) 2-bromoethanol are heated under reflux for 4 hours in 60 ml n-butanol. The mixture is left to cool, filtered and then recrystallised from ethanol.

reactant | 4-(3-Trifluoromethyl-4-fluorophenyl)piperazine | 0.04 mole, 10 g | FC(C=1C=C(C=CC1F)N1CCNCC1)(F)F | C11H12F4N2
reactant | 2-bromoethanol | 0.056 mole, 7 g | BrCCO | C2H5BrO
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | 2-[4-(3-Trifluoromethyl-4-fluorophenyl)-piperazino]-ethanol | FC(C=1C=C(C=CC1F)N1CCN(CC1)CCO)(F)F | C13H16F4N2O
